US05750213
First, 2.6 g of 6-[2,3-difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-hydroxyhexyl)acetate, 1.2 g of triethylamine, and 100 ml of tetrahydrofuran were placed in a 200 ml flask. Then, a small amount of tetrahydrofuran in which 1.1 g of acryloyl chloride was dissolved was added dropwise to the mixture under ice water cooling. The resultant mixture was allowed to warm to room temperature and stirred for 3 hours. The reaction mixture was poured into water, and an organic layer was extracted with ether. The ether layer was washed with diluted hydrochloric acid and water in this order, and then dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/toluene=1/9) to obtain 0.9 g of 6-[2,3difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-acryloyloxyhexyl)acetate (Y: 28%). The compound thus obtained was liquid at room temperature. The compound thus obtained had a purity of 99% by HPLC and of 1 spot by TLC.

reactant | 6-[2,3-difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-hydroxyhexyl)acetate | 2.6 g | OCCCCCCC(C(=O)OCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCO | C32H46F2O5
reactant | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | water | O | H2O
reactant | acryloyl chloride | 1.1 g | C(C=C)(=O)Cl | C3H3ClO
product | 6-[2,3difluorobiphenyl-4'-yl]oxyhexyl 2,2-bis(6-acryloyloxyhexyl)acetate | 0.9 g, 28% | C(C=C)(=O)OCCCCCCC(C(=O)OCCCCCCOC1=CC=C(C=C1)C1=C(C(=CC=C1)F)F)CCCCCCOC(C=C)=O | C38H50F2O7
